US06274729B1
4-Aminophthalonitrile (3.60 g, 25.2 2.mmole) was dissolved in 8.6 mL of pyridine. Hexanoyl chloride (8.6 10, 61.5 mmole) was added and the mixture was stirred under N2 for 2 hours. The pyridine was distilled under vacuum until a yellow-orange residue was obtained. This residue was dissolved in dichloromethane and washed with 0.1 M HCl (5×15 mL) and then neutralized with aqueous sodium bicarbonate (3×50 mL). The organic solution was separated and dried over magnesium sulfate. Purification by column chromatography (silica, dichloromethane: methanol 5%) afforded 4.3 g (71% yield) of 4-hexanamidophthalonitrile as a light yellow compound.

reactant | 4-Aminophthalonitrile | 3.60 g | NC=1C=C(C(C#N)=CC1)C#N | C8H5N3
reactant | Hexanoyl chloride | 61.5 mmole | C(CCCCC)(=O)Cl | C6H11ClO
solvent | pyridine | 8.6 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-hexanamidophthalonitrile | 4.3 g, 71% yield | C(CCCCC)(=O)NC=1C=C(C(C#N)=CC1)C#N | C14H15N3O
